US08058269B2
The mixture of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (370 mg, 1 mmol), 2-phenylamino-acetamide (200 mg, 1.33 mmol) and K2CO3 (300 mg, 2.2 mmol) in DMF (2 mL) was stirred at room temperature for 1 h. The mixture was poured into water (30 ml), extracted with ethyl acetate (10 mL×3). The organic phase was separated, dried over Na2SO4 and concentrated. The residue was purified with chromatography to give 60 mg of rac-2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-phenyl-amino}-acetamide. MS: [M+H]+=439.8.

reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 1 mmol, 370 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | 2-phenylamino-acetamide | 1.33 mmol, 200 mg | C1(=CC=CC=C1)NCC(=O)N | C8H10N2O
reactant | K2CO3 | 2.2 mmol, 300 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | rac-2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-phenyl-amino}-acetamide | 60 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(CC(=O)N)C1=CC=CC=C1 | C23H19Cl2N3O2
